US05877324
3-(3-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one
The title compound was prepared by the procedure described in Example 6 using 12.0 g of 2-[3-(3-chloro-2-methylphenyl)-thioureido]-acetamide, and 25.0 g of ethyl iodide. The hydrochloride salt was prepared in ethereal hydrogen chloride. Crystallization from ethyl acetate afforded the title compound as a white solid, mono-hydrochloride (5.1 g), m.p. 161°-163° C. (dec.). Anal. Calcd. for. C12H13Cl N2O S . HCl: C, 47.22; H, 4.62; N, 9.18. Found: C, 47.03; H, 4.40; N, 9.09. Mass spectrum (+FAB, [M+H]+) m/z 269/271. 1H-NMR (DMSO-d6 ; 400 MHz) δ9.05-9.85 (broad s, 2 H), 7.62 (d, 1 H), 7.39 (t, 1 H), 7.33 (d, 1 H), 4.48 (q, 2 H), 3.20 (m, 2 H), 2.15 (s, 3 H), and 1.29 ppm (t, 3 H).

reactant | 2-[3-(3-chloro-2-methylphenyl)-thioureido]-acetamide | 12.0 g | ClC=1C(=C(C=CC1)NC(NCC(=O)N)=S)C | C10H12ClN3OS
reactant | ethyl iodide | 25.0 g | C(C)I | C2H5I
solvent | hydrogen chloride | Cl | ClH
product | 3-(3-Chloro-2-methylphenyl)-2-ethylsulfanyl-3,5-dihydro-imidazol-4-one | ClC=1C(=C(C=CC1)N1C(=NCC1=O)SCC)C | C12H13ClN2OS
